US05106987
To a 3 l flask was added 444 g (1.06 mol) of diethyl 1,4-dihydro-4-(2-methylpropyl)-2,6-bis(trifluoromethyl)-3,5-pyridinedicarboxylate and 500 g of toluene. The solution was sparged subsurface with N2 for 30 minutes. DABCO (10.3 g, 0.09 mol) was added as a solution in 18 g of water. K2CO3 (127 g, 0.9 mol) was then added as a solution in 144 g of water. An orange coloration developed on addition of the base. The reaction mixture was heated at 80° C. for 4.5 hours. During this time, the reaction was monitored bg GC to check for completion. Upon completion, the reaction mixture was cooled to 40° C. and the aqueous phase was removed from the vessel. Analysis of the reaction solution indicated the presence of 404 g (96% step yeield) of diethyl 2-difluoromethyl-4-(2-methylpropyl)-6-trifluoromethyl-3,5-pyridinedicarboxylate. The yield from ETFAA used as the starting material in preparation of they hydropyridine to this point was 83%.

reactant | diethyl 1,4-dihydro-4-(2-methylpropyl)-2,6-bis(trifluoromethyl)-3,5-pyridinedicarboxylate | 1.06 mol, 444 g | CC(CC1C(=C(NC(=C1C(=O)OCC)C(F)(F)F)C(F)(F)F)C(=O)OCC)C | C17H21F6NO4
reactant | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
reactant | DABCO | 0.09 mol, 10.3 g | C1CN2CCN1CC2 | C6H12N2
reactant | K2CO3 | 0.9 mol, 127 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 18 g | O | H2O
solvent | water | 144 g | O | H2O
product | ETFAA | CCOC(=O)CC(=O)C(F)(F)F | C6H7F3O3
